US07008940B1
N-(2,3-Dimethylphenyl)-2,2,2-trifluoroacetamide
To a solution of 2,3-dimethylaniline (25.3 g, 0.21 mol) and triethylamine (25.3 g, 0.25 mol) in THF (250 mL) was added dropwise trifluoroacetic anhydride (33 mL, 0.23 mol) over 10 minutes under ice-cooling, and the mixture was stirred at the same temperature for 10 minutes. Water was added to the reaction mixture, and the mixture was extracted with diisopropyl ether two times. The combined organic layers were washed with water and saturated brine, dried over magnesium sulfate, treated with active carbon, filtered, concentrated under reduced pressure. The residue was recrystallized from diisopropyl ether-hexane to obtain 42.2 g of the title compound.

reactant | 2,3-dimethylaniline | 0.21 mol, 25.3 g | CC1=C(N)C=CC=C1C | C8H11N
reactant | triethylamine | 0.25 mol, 25.3 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.23 mol, 33 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Water | O | H2O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | N-(2,3-Dimethylphenyl)-2,2,2-trifluoroacetamide | 42.2 g, Yield 93% | CC1=C(C=CC=C1C)NC(C(F)(F)F)=O | C10H10F3NO
